US05977101
c) Dimethyl 4-[2-(methylamino)-1-hydroxyethyl]-1,2-phenylenedioxydiacetate
Following the procedure of Example 76(e), except substituting dimethyl 4-[2-(Cbz-methylamino)acetyl]-1,2-phenylenedioxydiacetate (2.1 g, 4.57 mmol) for benzyl 4-[2-[[[1-[(benzimidazol-2-yl)methyl]benzimidazol-2-yl]methyl]methylamino]acetyl]phenoxyacetate and using EtOAc (50 mL) and MeOH (20 mL) as solvents, the title compound (1.34 g, 90%) was prepared: MS (ES) m/e 328.0 [M+H]+.

reactant | benzyl 4-[2-[[[1-[(benzimidazol-2-yl)methyl]benzimidazol-2-yl]methyl]methylamino]acetyl]phenoxyacetate | N1=C(NC2=C1C=CC=C2)CN2C(=NC1=C2C=CC=C1)CN(CC(=O)C1=CC=C(OCC(=O)OCC2=CC=CC=C2)C=C1)C | C34H31N5O4
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 20 mL | CO | CH4O
product | Dimethyl 4-[2-(methylamino)-1-hydroxyethyl]-1,2-phenylenedioxydiacetate | 1.34 g, 90% | CNCC(O)C1=CC(=C(C=C1)OCC(=O)OC)OCC(=O)OC | C15H21NO7
